US07323466B2
b) (R)-2-(2,5-Difluoro-4-hydroxy-benzyl)-morpholine-4-carboxylic acid tert-butyl ester
A suspension of palladium on carbon (10%, 0.47 g) in a solution of 4.7 g of (S)-2-[(4-benzyloxy-2,5-difluoro-phenyl)-bromo-methyl]-morpholine-4-carboxylic acid tert-butyl ester in ethanol (400 ml) was hydrogenated at room temperature and normal pressure till the theoretical amount of hydrogen had been consumed. Solids were removed by filtration and the filtrate was concentrated in vacuo. The residue was partitioned with ethyl acetate and saturated sodium bicarbonate solution. Organic phases were pooled, washed with brine and dried with Na2SO4 before being concentrated in vacuo. The residue was then purified by column chromatography (dichloromethane-diethyl ether (19:1)/silica gel) to give 0.5 g of the title compound.

reactant | (S)-2-[(4-benzyloxy-2,5-difluoro-phenyl)-bromo-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 4.7 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(Br)C1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)F | C23H26BrF2NO4
catalyst | palladium on carbon | 0.47 g | [Pd] | Pd
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | (R)-2-(2,5-Difluoro-4-hydroxy-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=C(C=C(C(=C1)F)O)F | C16H21F2NO4
